US06087380
3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 2 from 3-methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 92% of theory, C27H27N5O3 (469.55) Rf value: 0.19 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) ##EQU119##

reactant | 3-methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC=2N(C=C1)C(=C(N2)CCC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
product | 3-Methyl-2-[2-(4-amidinophenyl)ethyl]-imidazo[1.2-a]pyridin-7-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 92% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC=2N(C=C1)C(=C(N2)CCC2=CC=C(C=C2)C(N)=N)C)CCC(=O)O | InChI=1S/C27H27N5O3.ClH/c1-18-23(12-9-19-7-10-20(11-8-19)26(28)29)30-24-17-21(13-15-31(18)24)27(35)32(16-14-25(33)34)22-5-3-2-4-6-22;/h2-8,10-11,13,15,17H,9,12,14,16H2,1H3,(H3,28,29)(H,33,34);1H
